US05004747
A stirred suspension of sodium hydride (0.078 g; 80% dispersion in mineral oil) in dry tetrahydrofuran (10 ml) under an atmosphere of nitrogen and at -10° C. was treated with ethyl acetoacetate (0.312 g), dropwise, during 5 minutes. The mixture was stirred for 30 minutes and then it was treated with a solution of butyl lithium in hexane (1 ml; 2.5M) during a period of 5 minutes, whilst maintaining the temperature at -10° C. The mixture was stirred for a further period of 20 minutes at -10° C. and then treated with a solution of (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenal (0.34 g) in dry tetrahydrofuran (30 ml), dropwise, during 15 minutes at -10° C. The mixture was stirred at -10° C. for 2 hours and the resulting red-brown solution was treated with saturated aqueous ammonium chloride solution (15 ml) and then it was poured into a mixture of diethyl ether (75 ml) and water (50 ml). The organic phase was separated and the aqueous phase was extracted with diethyl ether (50 ml). The combined organic phases were washed with water (3×50 ml), dried over magnesium sulphate and evaporated, to give a yellow solid which was subjected to flash chromatography on silica gel, using ethyl acetate as eluent, to give ethyl (E)-5-hydroxy-7-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)-3-oxohept-6-enoate (0.35 g) in the form of a yellow solid, m.p.148°-149° C.

reactant | sodium hydride | 0.078 g | [H-].[Na+]
reactant | ethyl acetoacetate | 0.312 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | butyl lithium | C(CCC)[Li]
reactant | (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenal | 0.34 g | CN1C(C2=CC=CC=C2C(=C1/C=C/C=O)C1=CC=CC=C1)=O | C19H15NO2
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 1 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | ethyl (E)-5-hydroxy-7-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)-3-oxohept-6-enoate | 0.35 g | OC(CC(CC(=O)OCC)=O)\C=C\C=1N(C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)C | C25H25NO5
